US07834051B2
ethyl(4S)-4-{[(benzyloxy)carbonyl]amino}-2,2-dimethyl-3-oxopentanoate
A solution of diisopropylamine (0.665 mL) in THF (25 mL) was cooled to −78° C., and n-butyllithium-hexane solution (2.93 mL, 1.6 mol/L) was added dropwise. After the completion of the dropwise addition, the mixture was stirred at −78° C. for 1 hr. Subsequently, ethyl 2-methylpropanoate (0.675 mL) was added dropwise, and the mixture was further stirred at −78° C. for 1 hr. A solution of benzyl(4S)-4-methyl-2,5-dioxo-1,3-oxazolidine-3-carboxylate (900 mg) in THF (5.0 mL) was added dropwise at −78° C., and the mixture was further stirred at −78° C. for 20 min. Acetic acid (2.0 mL) was added to the reaction mixture and, after warming to room temperature, water was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=1/0→1/1) to give the title compound as a colorless oil (yield: 905 mg, yield: 78.0%).

reactant | diisopropylamine | 0.665 mL | C(C)(C)NC(C)C | C6H15N
reactant | ethyl 2-methylpropanoate | 0.675 mL | CC(C(=O)OCC)C | C6H12O2
reactant | benzyl(4S)-4-methyl-2,5-dioxo-1,3-oxazolidine-3-carboxylate | 900 mg | C[C@@H]1N(C(OC1=O)=O)C(=O)OCC1=CC=CC=C1 | C12H11NO5
reactant | Acetic acid | 2.0 mL | C(C)(=O)O | C2H4O2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | ethyl(4S)-4-{[(benzyloxy)carbonyl]amino}-2,2-dimethyl-3-oxopentanoate | yield: 905 mg, yield: 78.0% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(C(C(=O)OCC)(C)C)=O)C | C17H23NO5
